US07618960B2
Synthesis of ((R)-3-bromo-2-methylpropoxy)-tert-butyldiphenylsilane
tert-Butyldiphenylchlorosilane (83 mL) and imidazole (30 g) were added to a solution of (R)-3-bromo-2-methyl-1-propanol (45 g) in THF (150 mL) under ice-cooling, and the reaction mixture was stirred at room temperature overnight. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system) to obtain 117 g of the title compound. The property values of the compound are as follows.

reactant | tert-Butyldiphenylchlorosilane | 83 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | imidazole | 30 g | N1C=NC=C1 | C3H4N2
reactant | (R)-3-bromo-2-methyl-1-propanol | 45 g | BrC[C@@H](CO)C | C4H9BrO
reactant | Water | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | ((R)-3-bromo-2-methylpropoxy)-tert-butyldiphenylsilane | 117 g | BrC[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C20H27BrOSi
